US04230628
A solution of 15 g. of 12-hydroxydodecanonitrile and 14 ml. of triethylamine in 320 ml. of methylene chloride is stirred at 0° C. while 5.7 ml. of methanesulfonylchloride is added dropwise. The mixture is stirred at 0° C. for 1 hour, diluted with methylene chloride and extracted with water; cold, dilute hydrochloric acid; saturated aqueous sodium bicarbonate; and brine. The solution is dried over anhydrous magnesium sulfate and eaporated to yield 12-(methanesulfonyloxy)dodecanonitrile as a yellow oil

reactant | 12-hydroxydodecanonitrile | OCCCCCCCCCCCC#N | C12H23NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 12-(methanesulfonyloxy)dodecanonitrile | CS(=O)(=O)OCCCCCCCCCCCC#N | C13H25NO3S
